US05124331
3,4-Dihydro-3-(2-chlorophenyl)-2-methyl-6-(4-methyl-1-piperazinyl)sulfonyl-4-oxothieno[2,3-d]pyrimidine.hydrochloride
To 5.0 g of 3,4-dihydro-3-(2-chlorophenyl)-6-chlorosulfonyl-2-methyl-4-oxothieno[2,3-d]pyrimidine were added 80 ml of dichloromethane, 4.5 ml of triethylamine and 1.4 g of N-methylpiperazine, and the mixture was stirred at room temperature for 20 minutes. After the reaction mixture was washed with water, isopropyl alcohol saturated with hydrochloric acid gas was added to the concentrated residue to convert it into hydrochloride, which was recrystallized from methanol to afford 3.2 g of the title compound, m.p. 295°-297° C.

reactant | 3,4-dihydro-3-(2-chlorophenyl)-6-chlorosulfonyl-2-methyl-4-oxothieno[2,3-d]pyrimidine | 5.0 g | ClC1=C(C=CC=C1)N1C(=NC2=C(C1=O)C=C(S2)S(=O)(=O)Cl)C | C13H8Cl2N2O3S2
reactant | dichloromethane | 80 ml | ClCCl | CH2Cl2
reactant | N-methylpiperazine | 1.4 g | CN1CCNCC1 | C5H12N2
solvent | triethylamine | 4.5 ml | C(C)N(CC)CC | C6H15N
product | 3,4-Dihydro-3-(2-chlorophenyl)-2-methyl-6-(4-methyl-1-piperazinyl)sulfonyl-4-oxothieno[2,3-d]pyrimidine.hydrochloride | 3.2 g | Cl.ClC1=C(C=CC=C1)N1C(=NC2=C(C1=O)C=C(S2)S(=O)(=O)N2CCN(CC2)C)C | InChI=1S/C18H19ClN4O3S2.ClH/c1-12-20-17-13(18(24)23(12)15-6-4-3-5-14(15)19)11-16(27-17)28(25,26)22-9-7-21(2)8-10-22;/h3-6,11H,7-10H2,1-2H3;1H
